US05665718
20 g (69.6 mmol) of (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-carboxylic acid were dissolved in 40 ml of N,N-dimethylformamide, treated portionwise with 13 g (80.2 mmol) of 1,1'-carbonyldiimidazole and stirred at 60° for 10 min. After adding 16.78 g (76.6 mmol) of phthaloylglycine amidoxime a mixture was stirred at 90° for 1 hour, 14 ml of trifluoroacetic acid were added and the mixture was stirred at 85° for a further 18 hours. The suspension obtained was cooled, the crystals were filtered off and rinsed with methanol. There were obtained 16.74 g (51%) of (S)-7-fluoro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 287°-288°, which was used in the next step without further crystallization.

reactant | (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-carboxylic acid | 69.6 mmol, 20 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CC3)=O)C1 | C14H10FN3O3
reactant | 1,1'-carbonyldiimidazole | 80.2 mmol, 13 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | trifluoroacetic acid | 14 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (S)-7-fluoro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 16.74 g, 51% | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C4=NC(=NO4)CN4C(C=2C(C4=O)=CC=CC2)=O)CC3)=O)C1 | C24H15FN6O4
